US08877760B2
To the solution of 3,5-dichloropyrazine-2-carbonitrile (2.00 g, 11.5 mmol) in 30 mL NMP were added tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (2.71 g, 12.6 mmol) and DIEA (4.07 mL, 13.8 mmol). The mixture was stirred at RT for 1.5 h. To it was poured 300 mL water. After stirring vigorously for 2 h, the solid was isolated by filtration, washed with water and dried in vacuum oven for overnight to afford tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate in quantitative yield.

reactant | 3,5-dichloropyrazine-2-carbonitrile | 11.5 mmol, 2.00 g | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 12.6 mmol, 2.71 g | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | DIEA | 13.8 mmol, 4.07 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 300 mL | O | H2O
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
product | tert-butyl (1S,2R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)cyclohexylcarbamate | quantitative yield | ClC1=C(N=CC(=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C#N | C16H22ClN5O2
